US08859596B2
(R)-di-tert-butyl 1-((tetrahydrofuran-2-yl)methyl)hydrazine-1,2-dicarboxylate
To a mixture of (R)-(tetrahydrofuran-2-yl)methanol (Fluka, 4.0 g, 39.2 mmol) and di-tert-butyl hydrazine-1,2-dicarboxylate (9.1 g, 39.2 mmol) in THF (50 mL) was added triphenylphosphine (14.4 g, 54.8 mmol) followed by (E)-di-tert-butyl diazene-1,2-dicarboxylate (12.6 g, 54.8 mmol), portionwise. This mixture was stirred at ambient temperature for 16 h then was concentrated under reduced pressure and purified by column chromatography (SiO2, 99% hexane/EtOAc to 25% hexane/EtOAc) to give the title compound (11.8 g, 37.3 mmol, 95% yield). MS (DCI/NH3) m/z 317 (M+H)+.

reactant | (R)-(tetrahydrofuran-2-yl)methanol | 39.2 mmol, 4.0 g | O1[C@H](CCC1)CO | C5H10O2
reactant | di-tert-butyl hydrazine-1,2-dicarboxylate | 39.2 mmol, 9.1 g | N(NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H20N2O4
reactant | triphenylphosphine | 54.8 mmol, 14.4 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | (E)-di-tert-butyl diazene-1,2-dicarboxylate | 54.8 mmol, 12.6 g | N(=N\C(=O)OC(C)(C)C)/C(=O)OC(C)(C)C | C10H18N2O4
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | (R)-di-tert-butyl 1-((tetrahydrofuran-2-yl)methyl)hydrazine-1,2-dicarboxylate | 37.3 mmol, 11.8 g, 95% yield | O1[C@H](CCC1)CN(NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C15H28N2O5
